US04822805
A solution of 2-(2-methoxy-4-chloro-5-aminophenyl)-4-methyl-5-(3-pyridyl)imidazole (1.0 g) and acetic anhydride (2 ml) in a mixture of ethyl acetate (20 ml) and tetrahydrofuran (10 ml) was refluxed for 2 hours. The reaction mixture was cooled with ice-water and the crystalline residue was collected by filtration to give 2-(2-methoxy-4-chloro-5-acetamidophenyl)-4-methyl-5-(3-pyridyl)imidazole (0.7 g).

reactant | 2-(2-methoxy-4-chloro-5-aminophenyl)-4-methyl-5-(3-pyridyl)imidazole | 1.0 g | COC1=C(C=C(C(=C1)Cl)N)C=1NC(=C(N1)C)C=1C=NC=CC1 | C16H15ClN4O
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2-methoxy-4-chloro-5-acetamidophenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.7 g | COC1=C(C=C(C(=C1)Cl)NC(C)=O)C=1NC(=C(N1)C)C=1C=NC=CC1 | C18H17ClN4O2
